US08389759B2
Synthesis of 4-(tetrahydro-pyran-2-yloxy)-but-2-ynyl mesylate (3) (x=Ms)
Methanesulfonyl chloride (1.0 mL, 12.80 mmol) was added dropwise to a stirred solution of 4-(tetrahydro-pyran-2-yloxy)-but-2-yn-1-ol (1.9232 g, 11.30 mmol) and TEA (2.5 mL, 17.85 mmol) in DCM (40 mL) at ° C. for five minutes. And then the resulting mixture was stirred at room temperature for 5.5 hours. Water (20 mL) was added, followed by addition of saturated aqueous NaCl solution (70 mL). The organic phase was separated and washed again with brine (60 mL), dried over Na2SO4, concentrated. The residue was separated by flash column chromatography on silica gel using 5-25% EtOAc/hexane to afford 1.542 g of product (yield 55%, oil), along with 400 mg of Di-4-(tetrahydro-pyran-2-yloxy)-but-2-ynyl ether (yield 22%). 1H-NMR (CDCl3): δ 4.88 (t, J=1.8 Hz, 2 H), 4.76 (t, J=3.0-3.3 Hz, 1 H), 4.37-4.24 (m, 2 H), 3.80-3.76 (m, 1 H), 3.54-3.50 (m, 1 H), 3.11 (s, 3 H), 1.78-1.51 (m, 6 H).

reactant | Methanesulfonyl chloride | 12.80 mmol, 1.0 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-(tetrahydro-pyran-2-yloxy)-but-2-yn-1-ol | 11.30 mmol, 1.9232 g | O1C(CCCC1)OCC#CCO | C9H14O3
reactant | Water | 20 mL | O | H2O
reactant | NaCl | 70 mL | [Na+].[Cl-]
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 4-(tetrahydro-pyran-2-yloxy)-but-2-ynyl mesylate | 1.542 g, yield 55% | S(C)(=O)(=O)OCC#CCOC1OCCCC1 | C10H16O5S
